US05149699
Ethyl 3-(4-Chloro-2-methyl-6-trifluoromethylpyrimidin-5-yl)propionate
A mixture of ethyl 3-(2-methyl-6-trifluoromethyl-3H-pyrimidin-4-on-5-yl)propionate (0.61 g, 2.20 mmol), N,N-diethylaniline (0.33 g, 2.2 mmol), and POCl3 (8 mL) was heated under reflux for 2 h. The mixture was concentrated, poured onto ice, and extracted with ether. The combined extracts were dried (MgSO4) and concentrated to give 0.65 g of product as a brown oil.

reactant | ethyl 3-(2-methyl-6-trifluoromethyl-3H-pyrimidin-4-on-5-yl)propionate | 2.20 mmol, 0.61 g | CC1=NC(=C(C(N1)=O)CCC(=O)OCC)C(F)(F)F | C11H13F3N2O3
reactant | N,N-diethylaniline | 2.2 mmol, 0.33 g | C(C)N(C1=CC=CC=C1)CC | C10H15N
reactant | POCl3 | 8 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | Ethyl 3-(4-Chloro-2-methyl-6-trifluoromethylpyrimidin-5-yl)propionate | 0.65 g | ClC1=NC(=NC(=C1CCC(=O)OCC)C(F)(F)F)C | C11H12ClF3N2O2
